US04104202
36 g of 1,5-undecadien-4-ol is stirred and heated to reflux with 32.6 g of acetic acid anhydride for 1 hour. The excess anhydride and the resulting acetic acid are removed by distillation under reduced pressure. The residue is fractionated. Yield: 33.8 g (76%) 1,5-undecadien-4-yl acetate; b.p. 70°-80° C/2 Torr; n20D = 1.4468. 1,5-Nonadien-4-yl acetate was prepared in a similar way; yield: 75%; b.p. 85° C/10 Torr; n22D = 1.4403.

reactant | 1,5-undecadien-4-ol | 36 g | C=CCC(C=CCCCCC)O | C11H20O
reactant | acetic acid anhydride | 32.6 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1,5-Nonadien-4-yl acetate | yield: 75% | C(C)(=O)OC(CC=C)C=CCCC | C11H18O2
